US08486953B2
Preparation of N-(3-(dimethylamino)propyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-sulfonamide
To a stirred suspension of 5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-sulfonyl chloride (1.0 g, 12 mmol) in DCM (10 mL) at 0° C. was added Hünig's base (0.79 mL, 4.5 mmol) followed by N1,N1-dimethylpropane-1,3-diamine (0.52 mL, 4.2 mmol) and the solution stirred at ambient temperature for 2 hours. The suspension was adjusted to pH 8 with 2N hydrochloric acid, the precipitate collected by filtration, washed with water, diethyl ether and dried under vacuum to give the product as off-white solid (1.12 g, 89%).

reactant | 5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-sulfonyl chloride | 12 mmol, 1.0 g | CC1=C(SC=2N=CNC(C21)=O)S(=O)(=O)Cl | C7H5ClN2O3S2
reactant | Hünig's base | 4.5 mmol, 0.79 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N1,N1-dimethylpropane-1,3-diamine | 4.2 mmol, 0.52 mL | CN(CCCN)C | C5H14N2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(3-(dimethylamino)propyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-sulfonamide | 1.12 g, 89% | CN(CCCNS(=O)(=O)C1=C(C2=C(N=CNC2=O)S1)C)C | C12H18N4O3S2
